US07199120B2
To a solution of 2-bromo-1-[3-(2-fluoro-4-pyridinyl)pyrazolo[1,5-a]pyridin-2-yl]ethanone (250 mg, 0.75 mmol) in N,N-dimethylformamide (15 mL) was added thioacetamide (67 mg, 0.90 mmol). After heating at 60° C. for 3 hours, the reaction was cooled to room temperature. An ammonium hydroxide solution was used to adjust the pH to 9. The resultant solution was extracted with ethyl acetate. The organics were combined and washed with water, brine and dried over magnesium sulfate. Filtration and concentration gave 3-(2-fluoro-4-pyridinyl)-2-(2-methyl-1,3-thiazol-4-yl)pyrazolo[1,5-a]pyridine (220 mg, 95%) as a pale yellow solid. 1H NMR (CDCl3): δ 8.56 (d, 1H), 8.23 (d, 1H), 7.61 (d, 1H), 7.30 (s, 1H), 7.27 (m, 2H), 7.05 (s, 1H), 6.89 (m, 1H), 2.76 (s, 3H). MS m/z 311 (M+1).

reactant | 2-bromo-1-[3-(2-fluoro-4-pyridinyl)pyrazolo[1,5-a]pyridin-2-yl]ethanone | 0.75 mmol, 250 mg | BrCC(=O)C1=NN2C(C=CC=C2)=C1C1=CC(=NC=C1)F | C14H9BrFN3O
reactant | thioacetamide | 0.90 mmol, 67 mg | C(C)(=S)N | C2H5NS
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 3-(2-fluoro-4-pyridinyl)-2-(2-methyl-1,3-thiazol-4-yl)pyrazolo[1,5-a]pyridine | 220 mg, 95% | FC1=NC=CC(=C1)C=1C(=NN2C1C=CC=C2)C=2N=C(SC2)C | C16H11FN4S
